US04782050
2. 1-methyl-5-phenylimidazole
To 2.88 g of 1-acetyl-4-phenylimidazole in 50 ml of acetonitrile was added 5.8 ml of methyl iodide and the reaction mixture sealed in a flask over a weekend. The reaction mixture was poured into water and then decanted from insoluble oil. The pH of the decanted solution was adjusted to 9 with sodium carbonate and the solution extracted with chloroform. The extracts were combined, dried over magnesium sulfate and concentrated to give 1.02 g of crude product which was chromatographed on 50 g of silica gel using 30% ethyl acetate in chloroform as the eluent, 640 mg.

reactant | 1-acetyl-4-phenylimidazole | 2.88 g | C(C)(=O)N1C=NC(=C1)C1=CC=CC=C1 | C11H10N2O
reactant | methyl iodide | 5.8 ml | CI | CH3I
reactant | water | O | H2O
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 1-methyl-5-phenylimidazole | 1.02 g | CN1C=NC=C1C1=CC=CC=C1 | C10H10N2
